US04377580
A mixture of 4-amino-7-pivalamidoquinazoline (10.5 g) and dimethyl methoxymethylenepropanedioate (10.9 g) in N,N-dimethylformamide (32 ml) was stirred at 100° C. for 1 hour and 25 minutes. After the reaction mixture was cooled to ambient temperature, water was added. The resulting solid was separated by filtration, washed with water and dried. The crystals were recrystallized from a mixture of ethyl acetate and ethanol to give crystalline dimethyl [[7-pivalamido-4-quinazolinylamino]methylene]propanedioate (13.7 g).

reactant | 4-amino-7-pivalamidoquinazoline | 10.5 g | NC1=NC=NC2=CC(=CC=C12)NC(C(C)(C)C)=O | C13H16N4O
reactant | dimethyl methoxymethylenepropanedioate | 10.9 g | COC=C(C(=O)OC)C(=O)OC | C7H10O5
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 32 ml | CN(C=O)C | C3H7NO
product | dimethyl [[7-pivalamido-4-quinazolinylamino]methylene]propanedioate | 13.7 g | C(C(C)(C)C)(=O)NC1=CC=C2C(=NC=NC2=C1)NC=C(C(=O)OC)C(=O)OC | C19H22N4O5
